US03978076
D: 3-(6-Chloro-n-hexyl)-5,5-dimethyl-hydantoin
128 g of 5,5-dimethyl-hydantoin (1.0 mol), 69 g of anhydrous potassium carbonate (0.5 mol) and 775 g of 1,6-dichlorohexane are reacted at 132°-150°C internal temperature (external temperature 160°C) and the resulting water of reaction is removed continuously by azeotropic circulatory distillation. After 6 hours 25 minutes, the reaction is complete and the reaction mixture is filtered hot to remove the potassium chloride formed. The filtrate is concentrated on a rotary evaporator and dried to constant weight at 100°C and 10-1 mm Hg.

reactant | 5,5-dimethyl-hydantoin | 1.0 mol, 128 g | CC1(C(NC(N1)=O)=O)C | C5H8N2O2
reactant | potassium carbonate | 0.5 mol, 69 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,6-dichlorohexane | 775 g | ClCCCCCCCl | C6H12Cl2
solvent | water | O | H2O
product | 3-(6-Chloro-n-hexyl)-5,5-dimethyl-hydantoin | ClCCCCCCN1C(NC(C1=O)(C)C)=O | C11H19ClN2O2
